US06982348B2
N-{(1RS,2SR)-2-hydroxy-2-[4-(3-phenoxypropoxy)phenyl]-1-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]ethyl}-6,7-dihydro-5H-benzo[a][7]annulene-1-carboxamide
To a solution of N-{(1RS,2SR)-2-hydroxy-2-(4-hydroxyphenyl)-1-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]ethyl}-6,7-dihydro-5H-benzo[a][7]annulene-1-carboxamide (400 mg, 0.755 mmol) in N,N-dimethylformamide (15 ml) were added potassium carbonate (313 mg, 2.27 mmol) and 3-phenoxy-1-bromopropane (487 mg, 2.27 mmol), and the mixture was stirred overnight at room temperature. The reaction solution was diluted with water (100 ml) and extracted with ethyl acetate (100 ml×2). The extract was washed successively with water and saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1). Recrystallization from ethyl acetate-hexane gave the objective substance (245 mg, 50%).

reactant | N-{(1RS,2SR)-2-hydroxy-2-(4-hydroxyphenyl)-1-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]ethyl}-6,7-dihydro-5H-benzo[a][7]annulene-1-carboxamide | 0.755 mmol, 400 mg | OC(C(CC1=CC(=CC=C1)OC(C(F)F)(F)F)NC(=O)C=1C=CC=C2C1C=CCCC2)C2=CC=C(C=C2)O | C29H27F4NO4
reactant | potassium carbonate | 2.27 mmol, 313 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-phenoxy-1-bromopropane | 2.27 mmol, 487 mg | O(C1=CC=CC=C1)CCCBr | C9H11BrO
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | N-{(1RS,2SR)-2-hydroxy-2-[4-(3-phenoxypropoxy)phenyl]-1-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]ethyl}-6,7-dihydro-5H-benzo[a][7]annulene-1-carboxamide | OC(C(CC1=CC(=CC=C1)OC(C(F)F)(F)F)NC(=O)C=1C=CC=C2C1C=CCCC2)C2=CC=C(C=C2)OCCCOC2=CC=CC=C2 | C38H37F4NO5
